US05455174
Four grams of the immobilized Lipase PS prepared by the same procedure as in Example 2 was added to 40 ml of a dry tetrahydrofuran solution containing 4 g of ascorbic acid and 3 g of isopropenyl acetate, and then the reaction was continued for 22 hours at 40° C. The reaction mixture was then filtered, concentrated and recrystallized from acetone-benzene to yield 4.5 g of ascorbic acid-6-acetate. The water content of the reaction system was 700 ppm.

reactant | ascorbic acid | 4 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | isopropenyl acetate | 3 g | C(C)(=O)OC(=C)C | C5H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ascorbic acid-6-acetate | 4.5 g | C(C)(=O)OC[C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O | C8H10O7
